US07915443B2
{3-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]phenyl}acetic acid
A 50 ml THF solution of methyl{3-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]phenyl}acetate (216 mg, 0.38 mmol) and 0.5M NaOH (6.1 ml, 3.04 mmol) was stirred at room temperature for 2 hours. The reaction was quenched with acetic acid (0.174 ml, 3.04 mmol) and rotary evaporated to remove the THF solvent. Additional impure lots of product (22 mg) were combined and the aqueous mixture partitioned between EtOAc and NaHCO3 solution. The EtOAc layer was extracted with another portion of NaHCO3 solution. The combined basic aqueous layers were adjusted to pH 4 using 10% HCl and extracted with EtOAc. The combined EtOAc layers were washed with brine, dried with anhydrous Na2SO4 and rotary evaporated. The off-white solid foam was chromatographed eluting with CHCl3/MeOH and then recrystallized from a mixture of CHCl3/EtOAc/MeCN to give white solid (144 mg, 62%).

reactant | methyl{3-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]phenyl}acetate | 0.38 mmol, 216 mg | COC(CC1=CC(=CC=C1)S(=O)(=NC(=O)C=1C=NC=C(C1)C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C)C)=O | C30H27N5O5S
reactant | NaOH | 3.04 mmol, 0.5M, 6.1 ml | [OH-].[Na+]
reactant | acetic acid | 3.04 mmol, 0.174 ml | C(C)(=O)O | C2H4O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | {3-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]phenyl}acetic acid | 144 mg, 62% | CN1N=C(C=C1C(=O)NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=S(=O)(C)C=1C=C(C=CC1)CC(=O)O)C | C29H25N5O5S
